US08003692B2
2-Methyl-3-pyridin-3-yl-cyclopent-2-enone.
Synthesized from 3-bromo-2-methylcyclopent-2-enone and 3-pyridine boronic acid according to the general procedure described for the Suzuki coupling. Purification by automated flash chromatography using gradient elution (0 to 100% ethyl acetate/hexanes) and further recrystallization yielded the product (38 mg, 31%) as a brown oil. 1H NMR (CDCl3, 300 MHz): δ 8.78 (s, 1H), 8.63 (br d, J=3.6 Hz, 1H), 7.82 (dt, J=8.1, 2.1 Hz, 1H), 7.40 (dd, J=8.1, 4.8 Hz, 1H), 2.91-2.96 (m, 2H), 2.56-2.59 (m, 2H), 1.98 (t, J=2.1 Hz, 3H). 13C NMR (CDCl3, 75 MHz): δ 208.8, 162.5, 150.1, 148.3, 137.9, 134.5, 129.1, 123.4, 33.9, 29.0, 9.9. LCMS (ESI): mass calcd for (C11H11NO) m/z 173.08; measured [M+H]+: m/z 174.07.

reactant | 3-bromo-2-methylcyclopent-2-enone | BrC1=C(C(CC1)=O)C | C6H7BrO
reactant | 3-pyridine boronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 2-Methyl-3-pyridin-3-yl-cyclopent-2-enone | 38 mg, 31% | CC=1C(CCC1C=1C=NC=CC1)=O | C11H11NO
